US07456164B2
Intermediate 98: N*2*-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyridine-2,3-diamine
A solution of (3-Nitro-pyridin-2-yl)-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine (465 mg, 1.06 mmol) in ethanol (˜10 mL) was hydrogenated for 4 hours at room temperature at 40 psi in the presence of 10% Pd/C (45 mg, 10% w/w). The reaction mixture was filtered over Arbocel® and rinsed with ethanol (30 mL), 2M HCl (20 mL) and EtOH (30 mL). The filtrate was concentrated in vacuo to give the title compound (365 mg, 84%). HRMS ESI+ m/z 411.2750 [MH]+.

reactant | (3-Nitro-pyridin-2-yl)-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine | 1.06 mmol, 465 mg | [N+](=O)([O-])C=1C(=NC=CC1)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C24H32N4O4
solvent | ethanol | ˜10 mL | C(C)O | C2H6O
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | N*2*-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyridine-2,3-diamine | 365 mg, 84% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=C1N | C24H34N4O2
